US09315491B2
(1H-Benzoimidazol-2-yl)-[4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-amine
A mixture of 1-(2-Amino-phenyl)-3-[4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-thiourea (0.3 g, 1.0 eq.) and DCC (0.18 g, 1.3 eq.) in THF (10 ml) for 9 hrs at 80-90° C. The mixture was dried in vacuo, crystallized in a EA solution, and then filtered to give a white solid (0.18 g, 68.36%), which was then dried in vacuo to give of a product.

reactant | 1-(2-Amino-phenyl)-3-[4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-thiourea | 0.3 g, 1.0 eq. | NC1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NC=C(C(=N1)N1CCOCC1)OC | C22H24N6O2S
reactant | DCC | 0.18 g, 1.3 eq. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (1H-Benzoimidazol-2-yl)-[4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-amine | 0.18 g, 68.36% | N1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=NC=C(C(=N2)N2CCOCC2)OC | C22H22N6O2
